US07342118B2
{1-[1-(2-Hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-ylcarbamoyl]-butyl}-carbamic acid tert-butyl ester
To a solution of 2-[4-(2-tert-Butoxycarbonylamino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester (9.6 g, 25.2 mmol) in 100 mL of diethyl ether at 0° C. is added 1.0 M lithium aluminum hydride (37.9 mL, 37.9 mmol) in diethylether dropwise over 1 h. The reaction is stirred at 0° C. for 15 min and warmed to rt for 1 h. The reaction is slowly quenched with 200 mL of water and ethyl acetate (200 mL). The reaction is filtered and the aqueous is extracted with ethylacetate, dried, and concentrated. The resultant residue is purified by silica gel chromatography to provide the title compound (5.8 g); MS m/z 355.3 (M+1).

reactant | 2-[4-(2-tert-Butoxycarbonylamino-pentanoylamino)-imidazol-1-yl]-2-methyl-propionic acid methyl ester | 25.2 mmol, 9.6 g | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(=O)OC(C)(C)C)=O)=O | C18H30N4O5
reactant | lithium aluminum hydride | 37.9 mmol, 1.0 M, 37.9 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | {1-[1-(2-Hydroxy-1,1-dimethyl-ethyl)-1H-imidazol-4-ylcarbamoyl]-butyl}-carbamic acid tert-butyl ester | 5.8 g | C(C)(C)(C)OC(NC(CCC)C(NC=1N=CN(C1)C(CO)(C)C)=O)=O | C17H30N4O4
